US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.088 g, 0.318 mmol) was reacted with N-(2-azidoethyl)-2,4,6-trichlorobenzamide (0.093 g, 0.318 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(2,4,6-trichlorobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 8.22 (s, 1H), δ 7.34 (s, 1H), δ 7.26 (s, 2H), δ 6.42 (s, 1H), δ 5.97 (s, 2H), δ 4.51 (s, 2H), δ 3.94 (s, 2H), δ 2.45 (t, 2H), δ 2.20 (s, 2H), δ 1.47 (m 13H), δ 1.21 (m, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 164.7, 148.0, 135.7, 134.6, 132.9, 128.7, 128.1, 127.3, 122.3, 84.9, 53.7, 49.3, 39.9, 31.8, 29.2, 28.9, 28.2, 25.5, 22.8, 14.3 ppm; HRMS (ESI) calcd for C24H30Cl3N7O3 (M+) 569.1476. found 569.1477, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-2,4,6-trichlorobenzamide hydrochloride (0.116 g, 72% yield). 1H NMR (300 MHz, CD3OD) δ 8.36 (s, 1H), δ 7.45 (s, 2H), δ 6.46 (s, 1H), δ 4.77 (s, 2H), δ 3.97 (s, 2H), δ 2.80 (s, 2H), δ 2.48 (t, 2H), δ 1.73 (s, 2H), δ 1.62 (s, 2H), δ 1.41 (s, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 165.5, 147.3, 136.9, 134.5, 132.7, 128.2, 128.0, 127.6, 108.6, 51.2, 39.0, 28.1, 27.7, 24.1, 23.8 ppm; HRMS (ESI) calcd for C19H22Cl3N7O (M+) 469.0951. found 469.0941.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.318 mmol, 0.088 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-2,4,6-trichlorobenzamide | 0.318 mmol, 0.093 g | N(=[N+]=[N-])CCNC(C1=C(C=C(C=C1Cl)Cl)Cl)=O | C9H7Cl3N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(2,4,6-trichlorobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=C(C=C(C=C1Cl)Cl)Cl)=O)C(=O)OC(C)(C)C | C24H30Cl3N7O3
